US04464300
A solution of 17.5 ml of hydrazine hydrate in 1.75 l of tetrahydrofuran is treated with 22 g of 7-chloro-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1-benzazepine-2-thione. The solution is stirred under a stream of argon for 2 hours and then evaporated at 40° in vacuo. The residue is crystallized from ether and there is obtained 7-chloro-5-(2-fluorophenyl)-2-hydrazino-4,5-dihydro-2H-1-benzazepine of melting point 213°-215°.

reactant | hydrazine hydrate | 17.5 ml | O.NN
reactant | 7-chloro-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1-benzazepine-2-thione | 22 g | ClC=1C=CC2=C(C(CCC(N2)=S)C2=C(C=CC=C2)F)C1 | C16H13ClFNS
solvent | tetrahydrofuran | 1.75 l | O1CCCC1 | C4H8O
product | 7-chloro-5-(2-fluorophenyl)-2-hydrazino-4,5-dihydro-2H-1-benzazepine | ClC=1C=CC2=C(C(CCC(N2)NN)C2=C(C=CC=C2)F)C1 | C16H17ClFN3
